US04447434
5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one-hemihydrate
A mixture of 10.65 g (0.051 mol) of 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one, 19.6 g (0.10 mol) of 1-methyl-1,2,5,6-tetrahydroisonicotinic acid chloride hydrochloride, 20.7 g (0.15 mol) of potassium carbonate and 200 ml of anhydrous toluene were refluxed for 24 hours, with thorough stirring. After cooling, the mixture was stirred into 500 ml of ice-cold water, the organic layer was separated off and the aqueous layer was exhaustively extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate then concentrated by evaporation in vacuo. The residue was purified by column chromatography, first on silica gel with a particle size of 0.1 to 0.4 mm, using 1,2-dichloroethane/methanol as eluant (ratio by volume 9:1), and secondly on silica gel with a particle size of from 0.05 to 0.2 mm, using 1,2-dichloroethane/methanol (volume ratio 95:5) as eluant. When the appropriate fractions were worked up in the usual way, colorless crystals were obtained, m.p. 233°-234° C. (diisopropylether/ethyl acetate). Yield: 2.4 g (14% of theory).

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.051 mol, 10.65 g | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | 1-methyl-1,2,5,6-tetrahydroisonicotinic acid chloride hydrochloride | 0.10 mol, 19.6 g | Cl.CN1CC=C(C(=O)Cl)CC1
reactant | potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylether ethyl acetate | C(C)(C)OC(C)C.C(C)(=O)OCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one-hemihydrate | O.CN1CC=C(CC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2.CN2CC=C(CC2)C(=O)N2C3=C(NC(C1=C2C=CC=C1)=O)C=CC=C3 | InChI=1S/2C20H19N3O2.H2O/c2*1-22-12-10-14(11-13-22)20(25)23-17-8-4-2-6-15(17)19(24)21-16-7-3-5-9-18(16)23;/h2*2-10H,11-13H2,1H3,(H,21,24);1H2
